US07943613B2
Sodium methoxide (0.27 g, 0.5 mmol) was added to 1 M solution of lithium aluminum hydride in tetrahydrofuran (12 mL, 12 mmol). The mixture was cooled to 0° C. and a solution of 3-(4-bromophenyl)prop-2-yn-1-ol (0.422 g, 2.0 mmol) in tetrahydrofuran (50 mL) was slowly added. The reaction was stirred for at 0° C. for 3 h, ethyl acetate (2.6 mL, 30 mmol) was added and the mixture was stirred for further 10 min without cooling. Iodobenzene (2.7 g, 13 mmol), anhydrous zinc bromide (1.4 g, 6 mmol), and tris(dibenzylideneacetone)dipalladium chloroform complex (0.50 g, 0.5 mmol) were added and the mixture was evacuated and kept under nitrogen. A solution of tri-tert-butylphosphine in cyclohexane (6.7 mL, 1 mmol) was added and the mixture was heated at 60° C. for 16 h. Methanol (10 mL) was added and the resulting mixture was stirred for additional 1 h. The reaction mixture was poured into water, acidified with hydrochloric acid and extracted with ethyl acetate (3×100 mL). Organic layers were combined, dried with anhydrous sodium sulphate, evaporated in vacuo and the residue was purified by column chromatography (silica gel Fluka 60, hexanes/ethyl acetate 98:2-70:30) affording (E)-3-(4-bromophenyl)-3-phenylprop-2-en-1-ol.

reactant | Sodium methoxide | 0.5 mmol, 0.27 g | C[O-].[Na+]
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-(4-bromophenyl)prop-2-yn-1-ol | 2.0 mmol, 0.422 g | BrC1=CC=C(C=C1)C#CCO | C9H7BrO
reactant | ethyl acetate | 30 mmol, 2.6 mL | C(C)(=O)OCC | C4H8O2
reactant | Iodobenzene | 13 mmol, 2.7 g | IC1=CC=CC=C1 | C6H5I
reactant | tri-tert-butylphosphine | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | cyclohexane | 1 mmol, 6.7 mL | C1CCCCC1 | C6H12
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
catalyst | zinc bromide | 6 mmol, 1.4 g | [Br-].[Zn+2].[Br-]
solvent | tetrahydrofuran | 12 mmol, 12 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | Methanol | 10 mL | CO | CH4O
product | (E)-3-(4-bromophenyl)-3-phenylprop-2-en-1-ol | BrC1=CC=C(C=C1)/C(=C/CO)/C1=CC=CC=C1 | C15H13BrO
